US08003651B2
A solution of Boc2O (1.3 g, 6.1 mmol) and ethyl 3-amino-2-(4-chloro-3-fluorobenzyl)propanoate (1.6 g, 6.1 mmol) in DCM (10 mL) was stirred overnight. The mixture was concentrated in vacuo and chromatographed (SiO2) using DCM as eluent to give ethyl 3-(tert-butoxycarbonylamino)-2-(4-chloro-3-fluorobenzyl)propanoate. LiOH—H2O (0.26 g, 6.1 mmol) in H2O (7 mL) was added to a solution of ethyl 3-(tert-butoxycarbonylamino)-2-(4-chloro-3-fluorobenzyl)propanoate (0.55 g, 1.5 mmol) in THF/MeOH (7/7 mL) and stirred overnight. The mixture was concentrated in vacuo, acidifed to a pH of 1 with 1.0N HCl, and extracted with DCM. The DCM extracts were dried (Na2SO4), filtered, and concentrated in vacuo. The crude material was chromatographed (SiO2) using 10% MeOH/DCM as eluent to give 3-(tert-butoxycarbonylamino)-2-(4-chloro-3-fluorobenzyl)propanoic acid (0.5 g). LCMS (APCI+) [M−Boc+H]+ 232.0; Rf: 2.09 min.

reactant | Boc2O | 6.1 mmol, 1.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 3-amino-2-(4-chloro-3-fluorobenzyl)propanoate | 6.1 mmol, 1.6 g | NCC(C(=O)OCC)CC1=CC(=C(C=C1)Cl)F | C12H15ClFNO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-(tert-butoxycarbonylamino)-2-(4-chloro-3-fluorobenzyl)propanoate | C(C)(C)(C)OC(=O)NCC(C(=O)OCC)CC1=CC(=C(C=C1)Cl)F | C17H23ClFNO4
